*Modified Banba Bandgap Voltage Reference in 90nm CMOS 
*Name: MohammadAli Daneshsefatdost
*student Number: 99123026
*________________________________________________________library @[90nm CMOS]__________________________________________________

.lib './TSMC_90nm.l' tt
.lib './TSMC_90nm.l' tt_BIP

*__________________________________________________Operating Temperature @ [27.C]______________________________________________
.temp 27

*_________Mosfet Name.@[(Drain) , (Gate) ,(source) , (balk) , (Model_channel) , (W) , (L) , (M)]=Voltage Refernce Core_________
M1	3	2	1	0		nch		w=3.9um		l=0.1um		M=2
M2	2	2	0	0		nch		w=3.9um		l=0.1um		M=1
M3	3	4	5	dd		pch		w=0.45um	l=0.5um		M=1
M4	2	4	6	dd		pch		w=0.45um	l=0.5um		M=8
M5	5	3	dd	dd		pch		w=0.45um	l=0.5um		M=1
M6	6	3	dd	dd		pch		w=0.45um	l=0.5um		M=8
M7	4	2	0	0		nch		w=3.9um		l=0.1um		M=1
M8	4	4	dd	dd		pch		w=1.44um	l=0.2um		M=1
M9	7	4	8	8		pch		w=0.45um	l=0.5um		M=30
M10	Vref	4	9	9		pch		w=0.2um		l=0.5um		M=25
M11	8	3	dd	dd		pch		w=0.45um	l=0.5um		M=30*9
M12	9	3	dd	dd		pch		w=0.25um	l=0.5um		M=25*9

*__________________________________transistor BJT.@[(Emitter) , (Base) ,(Collector) , (M)]=Start-up Circuit__________________
Q1	0	0	7	pnp5	

*_____________________________________________Resistors @[(R1=100K , R2=100K , R3=100K)]______________________________________
R1	1	0	400k
R2	Vref	7	20.48k
R3	Vref	0	35.15k

*_________Mosfet Name.@[(Drain) , (Gate) ,(source) , (balk) , (Model_channel) , (W) , (L) , (M)]=Voltage Refernce Core_______
Ms1		10		0		dd		dd		pch		W=0.5u	L=20u		M=1
Ms2		10		Vref		0		0		nch		W=1.4u	L=20u		M=1
Ms3		4		10		0		0		nch		W=0.5u	L=20u		M=1
Ms4		3		10		0		0		nch		W=0.5u	L=20u		M=1
*_____________________________________________________sources @[(Vdd=1V)]____________________________________________________
vdd	dd	0	dc=1v	ac=0.1
*____________________________________________________________simulation_______________________________________________________
.ac	dec	500	1	15meg 
.options list node post
.probe	vdb(Vref,0)s)
.option acout=0 
.op	 
.end